US04156730
A solution of N,N-dibenzyl-5-amino-pentan-2-one ethylene acetal (90 g) in ethanol (500 ml) containing dilute hydrochloric acid (200 ml) was refluxed for 1 hour. The solution was allowed to cool and the ethanol was evaporated in vacuo. The residue was dissolved in water and extracted with ether. The aqueous layer was made alkaline with dilute sodium hydroxide solution and was extracted twice with ether. The combined ethereal extracts were washed with water, dried over anhydrous sodium sulphate and evaporated in vacuo, to give a brown oil. The product was purified by chromatography to give N,N-dibenzyl-3-aminopropylmethyl ketone as a red-brown oil (60 g).

reactant | N,N-dibenzyl-5-amino-pentan-2-one ethylene acetal | 90 g | C1COC(C)(CCCN(CC2=CC=CC=C2)CC2=CC=CC=C2)O1 | C21H27NO2
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | N,N-dibenzyl-3-aminopropylmethyl ketone | 60 g | C(C1=CC=CC=C1)N(CCCCC(=O)CCCCN(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C37H44N2O
